US05707708
A solution of maleic anhydride (9.8g-0.1 mol) and 1-hexene (8.4g-0.1 mole) in propylene glycol methyl ether acetate (30g) was heated under agitation and nitrogen to 60 deg. C. A solution of 2.5 g of 75 wt % t-butyl peroxyneodecanoate in 6 g of propylene glycol methyl ether acetate was then injected into the reaction vessel within half hour via a syringe pump. The reactants were agitated for another hours at 60° C. before being cooled to room temperature. The product was the poured into methanol which caused precipitation of a white solid which was filtered and air dried to give 10.5 g of a maleic anhydride/1-hexene copolymer. Hydrolysis was carried out by.

reactant | maleic anhydride | 0.1 mol | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1-hexene | 0.1 mole, 8.4g | C=CCCCC | C6H12
reactant | t-butyl peroxyneodecanoate | C(CCCCCC(C)(C)C)(=O)OOC(C)(C)C | C14H28O3
reactant | methanol | CO | CH4O
solvent | propylene glycol methyl ether acetate | C(C)(=O)OC(COC)C | C6H12O3
solvent | propylene glycol methyl ether acetate | 6 g | C(C)(=O)OC(COC)C | C6H12O3
product | maleic anhydride 1-hexene | 10.5 g | C1(\C=C/C(=O)O1)=O.C=CCCCC | InChI=1S/C6H12.C4H2O3/c1-3-5-6-4-2;5-3-1-2-4(6)7-3/h3H,1,4-6H2,2H3;1-2H
